*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXF2R5ARA561MF80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXF2R5ARA561MF80G_20deg-C 1 2

C1 4 2 5.05e-04
C2 5 2 4.04e-05
C3 6 2 1.92e-05
R1 3 4 8.41e-03
R2 4 5 3.60e-02
R3 5 6 1.56e+00
L1 1 3 2.70e-09

.ENDS
